US04960787
Two mole-equivalents of sodium cyanoborohydride is added to a mixture of 1-(2,6-dimethylphenyl-3-acetyl-1H-pyrrole oxime in methanol and ethanolic hydrochloric acid is added to adjust to pH 3. The reaction mixture is stirred at room temperature overnight, poured over ice, rendered basic and extracted with ether. The ether extract is washed with brine, dried and evaporated to dryness. The residue is chromatographed over silica gel by gradient elution with methylene chloride/methanol, to yield N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine.

reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 2,6-dimethylphenyl-3-acetyl-1H-pyrrole oxime | CC1=C(C(=CC=C1)C)N1C=C(C=C1)C(C)=NO | C14H16N2O
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | ONC(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C14H18N2O
